US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-fluoro-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Xenon fluoride (56 mg) was added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (1.00 g) in acetonitrile (10 ml), and the resulting mixture was stirred overnight at room temperature. After a saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, the acetonitrile was distilled off under reduced pressure, and the residue was extracted twice with chloroform (50 ml). The organic layer was dried over sodium sulfate and filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a thin-layer silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (8 mg).

reactant | Xenon fluoride | 56 mg | [Xe]F | FXe
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 1.00 g | ClC1=C(CN2C(=CC=3N(C(N(C(C32)=O)C)=O)C)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C25H32ClN5O4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-fluoro-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 8 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)F)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C25H31ClFN5O4
